data/rdb19/train.csv
rxn,smiles,ea
4770,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])([O:9][C:10](=[O:11])[C:12]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([H:2])([H:3])([H:4])[C:12]([H:22])([H:23])[H:24].[C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])([O:9][C:10]=[O:11])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15],55.72516613214975
1562,[C:10]([C:11]([C:12]([H:13])[N:14]([C:15](=[O:16])[H:23])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[N:14]([C:15](=[O:16])[H:23])[H:22])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[H:20])[H:6],47.81080596859101
1404,[C:10]([C:11]([C:12]([C:13]([H:23])([H:24])[H:25])([C:14]([H:15])[H:16])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11]([C:12]([C:13]([H:23])([H:24])[H:25])=[C:14]([H:15])[H:16])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[H:22])[H:7])[H:6],26.770018346142024
2049,[C:11]([C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29])([H:22])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([H:22])[H:23])([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29])[H:8])([H:6])[H:7],14.891754410462454
2317,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9](=[C:10]([H:17])[H:18])[C:11](=[O:12])[O:13][H:19])([H:14])([H:15])[H:16]>>[C:1]([C:2]([H:3])([H:4])[C:9]([C:8]([H:14])([H:15])[H:16])([C:10]([H:17])[H:18])[C:11](=[O:12])[O:13][H:19])([H:5])([H:6])[H:7],17.62882692439598
1401,[C:10]([C:11]([C:12]([C:13]([H:20])([H:21])[H:22])[C:14]([H:23])([H:24])[H:25])([H:18])[H:19])([H:15])([H:16])[H:17].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:7][C:12]([C:11]([C:10]([H:15])([H:16])[H:17])([H:18])[H:19])([C:13]([H:20])([H:21])[H:22])[C:14]([H:23])([H:24])[H:25].[O:1]([C:2](=[O:3])[C:4]=[C:5]([H:8])[H:9])[H:6],27.35549431241816
1129,[C:14](=[C:15]([N:16]([C:17](=[O:18])[H:23])[H:22])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14](=[C:15]([N:16]([C:17](=[O:18])[H:23])[H:22])[H:21])[H:20].[C:1]([C:2]([C:3]([H:4])([H:5])[H:19])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],26.363987686054315
1193,[C:14]([C:15](=[C:16]([H:23])[H:24])[C:17](=[O:18])[O:19][H:25])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[O:7][H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:16]([C:15]([C:14]([H:20])([H:21])[H:22])[C:17](=[O:18])[O:19][H:25])([H:23])[H:24],28.658245821134187
4736,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1]([H:2])([H:3])([H:4])[H:17].[C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[H:20])([H:18])[H:19])([H:15])[H:16],20.32576776109636
4001,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25]([C:26]([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36])([H:34])[H:35])([H:31])([H:32])[H:33]>>[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])[H:13])([H:10])([H:11])[H:12].[H:14][C:26]([C:25]([C:24]([H:31])([H:32])[H:33])([H:34])[H:35])([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36],24.63545577734476
42,[C:12]([C:13]([O:14][C:15](=[O:16])[C:17]([C:18]([H:27])([H:28])[H:29])([C:19]([C:20]([H:32])([H:33])[H:34])([H:30])[H:31])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:15]([O:14][C:13]([C:12]([H:21])([H:22])[H:23])([H:24])[H:25])([O:16])[C:17]([C:18]([H:27])([H:28])[H:29])([C:19]([C:20]([H:32])([H:33])[H:34])([H:30])[H:31])[H:26])([H:6])([H:7])[H:8],40.24932666262612
4754,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:18])([H:19])[H:20])([N:9]([C:10](=[O:11])[H:22])[H:21])[H:17])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:10](=[O:11])[H:22].[C:1]([H:2])([H:3])([H:4])[N:9]([C:7]([C:6]([C:5]([H:12])([H:13])[H:14])([H:15])[H:16])([C:8]([H:18])([H:19])[H:20])[H:17])[H:21],42.81425798527198
1810,[C:15]([O:16][C:17](=[C:18]([H:23])[H:24])[H:22])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17](=[C:18]([H:23])[H:24])[H:22].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[O:16][C:15]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10],65.22184841352282
